US08377938B2
Example 2-2) N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrobromide
N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide (32.5 mg) was suspended in ethanol (0.325 ml). After adding 48% aqueous hydrobromic acid (0.010 ml) at room temperature to form a solution, it was stirred at room temperature, for 23 hours. The precipitate was collected by filtration and washed with ethanol (0.163 ml, twice). It was then dried under aeration at room temperature for 1 hour and then dried with warm air at 60° C. for 12 hours to give the title compound (30.7 mg, 82%) as white crystals.

reactant | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide | 32.5 mg | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | C28H26F3N5O5
reactant | hydrobromic acid | 0.010 ml | Br | BrH
solvent | ethanol | 0.325 ml | C(C)O | C2H6O
product | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrobromide | 30.7 mg, 82% | Br.FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | InChI=1S/C28H26F3N5O5.BrH/c29-16-1-3-17(4-2-16)33-25(38)12-28(6-7-28)13-26(39)34-22-10-21(31)23(11-20(22)30)41-19-5-8-32-24(9-19)35-27(40)36-14-18(37)15-36;/h1-5,8-11,18,37H,6-7,12-15H2,(H,33,38)(H,34,39)(H,32,35,40);1H
